Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]=[C:9]([H:10])[H:11],1.20505561838
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-1.69606221969
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[C:5][C:10]([H:11])([H:12])[O:13][H:14],4.476390535759999
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.6490071445200003
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.3343256797
[C:1]#[C:2][C:3]([H:4])[O:5][H:6]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[H:6],3.855019329080002
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:2]=[O:3],0.754805584219
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]#[C:9][H:10],1.94170701552
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.89884467854
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:6],1.8842654906
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.57679825051
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12],4.05985792751
[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-7.21609791605
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.87855746112
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.2005516763600002
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],0.485801265028
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.85900223879
[C:3]([H:4])([H:5])[C:6](=[O:7])[H:8].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-0.40126287941
[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.06986366879
[O:1]([C:2]([H:3])=[C:4]([H:5])[H:10])[H:7].[O:6]=[C:8][H:9]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],-0.799613112049
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.53363233806
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],1.89346874852
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.27982662023
[C:1]([C:2][C:8]([H:9])([H:10])[O:11][H:12])([H:5])([H:6])[H:7].[C:3]#[C:4]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.839998447839999
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12].[O:1]=[C:2][H:3],0.802900334169
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.2036530940900025
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.52123206883
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9],4.960985711509999
